US05135863
A. Preparation of m-nitrophenyl acetone
A mixture of 3-nitrophenyl acetic acid (20 g), pyridine (44 g) and acetic anhydride (106 g) was refluxed for four hours. Complete disappearance of starting material was observed by tlc (silica gel eluted with 1:1 parts by volume diethyl ether:hexane), and the brown solution was then evaporated to dryness in vacuo at 40°. The resulting residue was refluxed in the presence of concentrated HCl (7.5 ml) and ethanol (78 ml) for one hour; and to the hydrolysis product was added ice water (400 ml) and the precipitating 3-nitrophenyl acetone was filtered and washed with water. Additional product was obtained by extracting the filtrate with methylene chloride, drying over sodium sulfate, and evaporating the organic solvents. The crude products were combined and dissolved in a minimum amount of methanol:methylene chloride (1:1 parts by volume). Silica gel (30-50 g, flash chromatography, EM 230-400 mesh) was added and the solvent evaporated. The dried silica gel was placed on a column (3in.×6 in.) containing the same silica gel and eluted with 4:6 parts by volume ethyl acetate:hexane. The solution containing the desired product was evaporated to give the title compound. NMR for this product (in CDCl3) shows a 3 proton singlet at 2.34 ppm; a 2 proton singlet at 3.63 ppm; a 2 proton multiplet at 7.5 ppm; and a 2 proton multiplet at 8.0 ppm.

reactant | 3-nitrophenyl acetic acid | 20 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | acetic anhydride | 106 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 44 g | N1=CC=CC=C1 | C5H5N
product | m-nitrophenyl acetone | [N+](=O)([O-])C=1C=C(C=CC1)CC(C)=O | C9H9NO3
